US04752613
3-(5-(2-(((4-chlorophenyl)sulfonyl)amino)ethyl)thien-2-yl)propionic acid
Methyl 3-(5-(2-(((4-chlorophenyl)sulfonyl)amino)ethyl)thien-2-yl)propionate. A solution of the title compound of Example 2 (500 mg, 1.40 mmol) in ca. 1 ml of thionyl chloride was heated at reflux for 20 minutes. The excess thionyl chloride was then removed by distillation at slightly reduced pressure. Then, benzene (4 ml) was added to the pot and subsequently distilled to remove traces of thionyl chloride. The residue was dried in vacuo. The resultant solid was dissolved in ether (ca. 5 ml) containing a little THF. This solution was added dropwise to ethereal diazomethane (ca. 12 ml of ca 0.3M) at 0° C. An additional 6 ml of diazomethane solution was when added to complete formation of the diazoketone. After 5 minutes, the solvent was removed in vacuo. The residue was taken up in methanol (20 ml) and warmed to 60° C. Portions of silver (1) oxide (ca. 40 mg each) were added to the hot solution at 15 minute intervals. After 1.5 hours, the mixture was treated with Norit and filtered through Celite. The filtrate was concentrated in vacuo. The residue was then taken up in methylene chloride and passed through a short plug of silica eluting with 1:1 methylene chloride/ethyl acetate. The eluate was concentrated in vacuo to 399 mg of a solid. This material was combined with a material from a previous reaction (126 mg) and chromatographed (flash, silica, 25×15 cm, 40% ethyl acetate-hexanes) to provide 357 mg (47% yield) of a white solid.

reactant | Methyl 3-(5-(2-(((4-chlorophenyl)sulfonyl)amino)ethyl)thien-2-yl)propionate | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(S1)CCC(=O)OC | C16H18ClNO4S2
solvent | thionyl chloride | ca. 1 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(5-(2-(((4-chlorophenyl)sulfonyl)amino)ethyl)thien-2-yl)propionic acid | 1.40 mmol, 500 mg | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(S1)CCC(=O)O | C15H16ClNO4S2
